US05118686
6-Ethylamino-2-(2-propoxyphenyl)pyrimidin 4[3H1-one
4-Chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine (0.66 g) and ethylamine in ethanol (33%, 20 ml) was heated at 90° C. in a pressure vessel for 16 hours. The cooled reaction mixture was evaporated under reduced pressure to yield an oil which solidified on trituration with diethyl ether. The residue was recrystallised from isopropanol: diethyl ether, washed with water and recrystallised from isopropanol:water to yield the title compound, 0.47 g, m.p. 187°-8° C.

reactant | 4-Chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine | 0.66 g | ClC1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C13H13ClN2O2
reactant | ethylamine | C(C)N | C2H7N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-Ethylamino-2-(2-propoxyphenyl)pyrimidin 4[3H1-one | C(C)NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C15H19N3O2
